US05545636
3-(1-[3-Cyclopropylamino-1-propyl]-3-indol yl)-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione
To a 0° C. solution of trifluoromethanesulfonic acid anhydride (188 mg, 0.67 mmol) in dry methylene chloride (15 mL) was added a solution of 3-[1-(3-hydroxy-propyl)-1H-indol-3-yl)- 4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione (100 mg, 0.25 mmol) in THF (10 mL). After 2 hours, cyclopropylamine (200 μl, 5 mmol) was added and stirring continued over night. The reaction mixture was quenched with water. The organic phase was separated, washed with water (3×), dried, and evaporated. The residual red oil was purified by flash chromatography on silica gel eluting with a methylene chloride/ethanol gradient (98:2-95:5). Evaporation of the eluting solvent gave the title compound (70 mg, 64% yield).

reactant | trifluoromethanesulfonic acid anhydride | 0.67 mmol, 188 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-[1-(3-hydroxy-propyl)-1H-indol-3-yl)- 4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 0.25 mmol, 100 mg | OCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C24H21N3O3
reactant | cyclopropylamine | 5 mmol, 200 μl | C1(CC1)N | C3H7N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(1-[3-Cyclopropylamino-1-propyl]-3-indol yl)-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 70 mg, 64% yield | C1(CC1)NCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C27H26N4O2
